US05547972
A solution of n-butyllithium in hexane (30.4 ml, 2.5M) was added dropwise with stirring under nitrogen to a solution of N,N,N'-trimethylethylenediamine (7.9 g) in dry THF (150 ml) at -15 to -20° C. After the addition the mixture was stirred at -23° C. for 15 minutes and then 4-chlorobenzaldehyde (10.0 g) was added dropwise at -15 to -20° C. After the addition the mixture was stirred at -23° C. for 15 minutes and then more n-butyllithium in hexane (85.4 ml, 2.5M) was added dropwise at -15° C. The mixture was stirred at -23° C. for 3 hours, cooled to -40° C. and iodomethane (60.6 g) added at -40° to -20° C. After the addition, the mixture was stirred at -40° C. for 5 minutes and then allowed to warm up to ambient temperature and then stirred at that temperature for 30 minutes. The mixture was carefully poured into ice cold 10% hydrochloric acid (2 1) and left standing for 64 hours. The mixture was extracted with diethyl ether to give an oil which was distilled twice under vacuum to give 4-chloro-2-methylbenzaldehyde, b.p. 105°-110° (15 mmHg) which was sufficiently pure for synthetic use in Example 40.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N,N'-trimethylethylenediamine | 7.9 g | CN(CCNC)C | C5H14N2
reactant | 4-chlorobenzaldehyde | 10.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | iodomethane | 60.6 g | IC | CH3I
solvent | hexane | 2.5M, 30.4 ml | CCCCCC | C6H14
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | hexane | 2.5M, 85.4 ml | CCCCCC | C6H14
product | 4-chloro-2-methylbenzaldehyde | ClC1=CC(=C(C=O)C=C1)C | C8H7ClO
